US05597845
(S)-N-(2-Methoxybenzyl)-N-methyl-2-[[(S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamino]-N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide
Prepare by the method of Example 1 using (S)-N-(2-methoxybenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-phenyl-propionamide (0.71 g, 1.6 mmol) and (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt ((S)-tryptophan methyl ester hydrochloride salt) (0.45 g, 1.76 mmol). Purify by chromatography eluting with 50% ethyl acetate/hexane to give the title compound: TLC Rf =0.56 (silica gel, 50% ethyl acetate/hexane)

reactant | (S)-N-(2-methoxybenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-phenyl-propionamide | 1.6 mmol, 0.71 g | COC1=C(CN(C([C@H](CC2=CC=CC=C2)N(C(=O)OC(C)(C)C)CC=O)=O)C)C=CC=C1 | C25H32N2O5
reactant | (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt | 1.76 mmol, 0.45 g | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](CC(=O)O)N
product | (S)-N-(2-Methoxybenzyl)-N-methyl-2-[[(S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamino]-N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide | COC1=C(CN(C([C@H](CC2=CC=CC=C2)N(C(=O)OC(C)(C)C)CCN[C@@H](CC2=CNC3=CC=CC=C23)CC(=O)O)=O)C)C=CC=C1 | C37H46N4O6
